### PR TITLE
[Merged by Bors] - chore: adaptations for nightly-2026-05-03

### PR DESCRIPTION
**Pull request by kim-em**

### CODE REVIEW

File: Mathlib/Algebra/Category/Grp/Colimits.lean [hunk 1]
```diff
@@ -145,8 +149,8 @@ lemma quotUliftToQuot_ι [DecidableEq J] (j : J) (x : (F ⋙ uliftFunctor.{u'}).
   dsimp [quotUliftToQuot, Quot.ι]
   conv_lhs => erw [AddMonoidHom.comp_apply (QuotientAddGroup.mk' (Relations (F ⋙ uliftFunctor)))
     (DFinsupp.singleAddHom _ j), QuotientAddGroup.lift_mk']
-  simp only [Functor.comp_obj, uliftFunctor_obj, DFinsupp.singleAddHom_apply,
-    DFinsupp.sumAddHom_single, AddMonoidHom.coe_comp, AddMonoidHom.coe_coe, Function.comp_apply]
+  simp only [ DFinsupp.singleAddHom_apply,
```
Comment (kim-em) [inline Mathlib/Algebra/Category/Grp/Colimits.lean]:
```suggestion
  simp only [DFinsupp.singleAddHom_apply,
```

File: Mathlib/Algebra/Category/Grp/Yoneda.lean [hunk 2]
```diff
@@ -17,6 +17,7 @@ This file defines a few Yoneda embeddings for the category of commutative groups
 
 @[expose] public section
 
+
```
Comment (kim-em) [inline Mathlib/Algebra/Category/Grp/Yoneda.lean]:
```suggestion
```

File: Mathlib/Algebra/FreeMonoid/Basic.lean [hunk 3]
```diff
@@ -486,10 +486,12 @@ def freeMonoidCongr (e : α ≃ β) : FreeMonoid α ≃* FreeMonoid β where
 @[to_additive (attr := simp)]
 theorem freeMonoidCongr_of (e : α ≃ β) (a : α) : freeMonoidCongr e (of a) = of (e a) := rfl
 
-@[to_additive (attr := simp)]
+@[to_additive]
 theorem freeMonoidCongr_symm_of (e : α ≃ β) (b : β) :
     freeMonoidCongr e.symm (of b) = of (e.symm b) := rfl
 
+attribute [simp] freeMonoidCongr_symm_of
+
```
Comment (kim-em) [inline Mathlib/Algebra/FreeMonoid/Basic.lean]: @nomeata do you know what is going on here? It looks like we're dropping `simp` from the additive version?

Comment (nomeata) [reply Mathlib/Algebra/FreeMonoid/Basic.lean]: Good catch! This is likely Claude doing erratic fixes.

File: Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafification.lean [hunk 4]
```diff
@@ -161,7 +162,7 @@ instance : IsIso (sheafificationAdjunction α).counit := by
   rw [NatTrans.isIso_iff_isIso_app]
   intro F
   rw [← isIso_iff_of_reflects_iso _ (SheafOfModules.toSheaf.{v} R)]
-  simp only [Functor.comp_obj, SheafOfModules.forget_obj, restrictScalars_obj, Functor.id_obj,
+  simp only [ Functor.id_obj,
     toSheaf_map_sheafificationAdjunction_counit_app]
```
Comment (kim-em) [inline Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafification.lean]:
```suggestion
  simp only [Functor.id_obj, toSheaf_map_sheafificationAdjunction_counit_app]
```

File: Mathlib/Algebra/Category/MonCat/Yoneda.lean [hunk 5]
```diff
@@ -17,6 +17,7 @@ This file defines a few Yoneda embeddings for the category of commutative monoid
 
 @[expose] public section
 
+
```
Comment (kim-em) [inline Mathlib/Algebra/Category/MonCat/Yoneda.lean]:
```suggestion
```

File: Mathlib/Algebra/Category/Ring/Under/Basic.lean [hunk 6]
```diff
@@ -142,8 +142,8 @@ variable (S) in
 def tensorProdObjIsoPushoutObj (A : Under R) :
     mkUnder S (S ⊗[R] A) ≅ (Under.pushout (ofHom <| algebraMap R S)).obj A :=
   Under.isoMk (CommRingCat.isPushout_tensorProduct R S A).flip.isoPushout <| by
-    simp only [Under.pushout_obj, Under.mk_right,
-      mkUnder_hom, AlgHom.toRingHom_eq_coe, IsPushout.inr_isoPushout_hom, Under.mk_hom]
+    simp only [
+      mkUnder_hom, AlgHom.toRingHom_eq_coe, IsPushout.inr_isoPushout_hom]
```
Comment (kim-em) [inline Mathlib/Algebra/Category/Ring/Under/Basic.lean]:
```suggestion
    simp only [mkUnder_hom, AlgHom.toRingHom_eq_coe, IsPushout.inr_isoPushout_hom]
```

File: Mathlib/Algebra/Homology/DerivedCategory/ShortExact.lean [hunk 7]
```diff
@@ -54,12 +55,12 @@ set_option backward.isDefEq.respectTransparency false in
...
     (hS₁ : S₁.ShortExact) (hS₂ : S₂.ShortExact) (f : S₁ ⟶ S₂) :
     triangleOfSESδ hS₁ ≫ (Q.map f.τ₁)⟦1⟧' = Q.map f.τ₃ ≫ triangleOfSESδ hS₂ := by
-  simp only [triangleOfSESδ, CochainComplex.mappingCone.triangle_obj₁, Category.assoc,
+  simp only [triangleOfSESδ, Category.assoc,
     IsIso.inv_comp_eq]
   rw [← Functor.comp_map, ← (Q.commShiftIso (1 : ℤ)).hom.naturality, ← Category.assoc,
     ← Category.assoc, ← Category.assoc, ← Category.assoc, ← Iso.app_hom,
     Iso.cancel_iso_hom_right, ← Q.map_comp]
-  simp only [Functor.comp_obj, Functor.comp_map,
+  simp only [ Functor.comp_map,
```
Comment (kim-em) [inline Mathlib/Algebra/Homology/DerivedCategory/ShortExact.lean]:
```suggestion
  simp only [Functor.comp_map,
```

File: Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafification.lean (hunk 4 above)
Comment (kim-em) [reply Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafification.lean]: Done in 1643a5e028f.

File: Mathlib/Algebra/Category/MonCat/Yoneda.lean (hunk 5 above)
Comment (kim-em) [reply Mathlib/Algebra/Category/MonCat/Yoneda.lean]: Done in 1643a5e028f.

File: Mathlib/Algebra/Category/Ring/Under/Basic.lean (hunk 6 above)
Comment (kim-em) [reply Mathlib/Algebra/Category/Ring/Under/Basic.lean]: Done in 1643a5e028f.

File: Mathlib/Algebra/Homology/DerivedCategory/ShortExact.lean (hunk 7 above)
Comment (kim-em) [reply Mathlib/Algebra/Homology/DerivedCategory/ShortExact.lean]: Done in 1643a5e028f.

File: Mathlib/Algebra/GroupWithZero/Action/Faithful.lean [hunk 8]
```diff
@@ -11,6 +11,7 @@ public import Mathlib.Algebra.GroupWithZero.NeZero
 /-!
 # Faithful actions involving groups with zero
 -/
+
```
Comment (kim-em) [inline Mathlib/Algebra/GroupWithZero/Action/Faithful.lean]:
```suggestion
```

File: Mathlib/AlgebraicGeometry/Limits.lean [hunk 9]
```diff
@@ -12,6 +12,7 @@ public import Mathlib.CategoryTheory.Limits.MonoCoprod
 public import Mathlib.CategoryTheory.Limits.Shapes.DisjointCoproduct
 public import Mathlib.Tactic.SuppressCompilation
 public import Mathlib.CategoryTheory.Limits.Constructions.ZeroObjects -- shake: keep
+
```
Comment (kim-em) [inline Mathlib/AlgebraicGeometry/Limits.lean]:
```suggestion
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/ChebyshevGauss.lean [hunk 10]
```diff
@@ -30,6 +30,7 @@ over appropriate evaluations of the polynomial.
 The statement is proved for Chebyshev polynomials using the complex exponential representation
 of `cos`, and then deduced for arbitrary polynomials.
 -/
+
```
Comment (kim-em) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/ChebyshevGauss.lean]:
```suggestion
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Extremal.lean [hunk 11]
```diff
@@ -42,6 +42,7 @@ Since `|P (x)| ≤ 1` on the nodes, this implies that the leading coefficient of
 by that of `T_n`, which is known to equal `2 ^ (n - 1)`.
 Moreover, equality holds iff `P` and `T_n` agree on the nodes, which implies that they coincide.
 -/
+
```
Comment (kim-em) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Extremal.lean]:
```suggestion
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean [hunk 12]
```diff
@@ -37,6 +37,7 @@ Chebyshev T polynomials are orthogonal with respect to `√(1 - x ^ 2)⁻¹`.
 * Bundle Chebyshev T polynomials into a HilbertBasis for MeasureTheory.Lp ℝ 2 measureT
 
 -/
+
```
Comment (kim-em) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean]:
```suggestion
```

File: Mathlib/Algebra/Group/Defs.lean [hunk 13]
```diff
@@ -15,6 +15,7 @@ public import Mathlib.Tactic.MkIffOfInductiveProp
 public import Mathlib.Tactic.OfNat
 public import Mathlib.Data.Nat.Notation
 public import Mathlib.Tactic.Simps.Basic
+public import Mathlib.Tactic.AdaptationNote
```
Comment (JovanGerb) [inline Mathlib/Algebra/Group/Defs.lean]:
```suggestion
```
Since nothing else in this file has changed, right?

File: Mathlib/Algebra/Homology/DerivedCategory/Ext/Map.lean [hunk 14]
```diff
@@ -65,13 +68,13 @@ lemma DerivedCategory.map_triangleOfSESδ [HasDerivedCategory.{t} C] [HasDerived
...
-    ← Functor.map_comp_assoc]
+    Functor.map_comp, Category.assoc, Functor.map_comp_assoc,
+    descShortComplex_triangleOfSESδ_assoc]
   dsimp
-  rw [← CochainComplex.mappingCone.map_δ, Functor.map_comp_assoc,
-    ← F.mapDerivedCategoryFactors_hom_naturality_assoc, Functor.map_comp]
-  simp [NatTrans.shift_app, Functor.commShiftIso_comp_hom_app, Functor.commShiftIso_comp_inv_app,
-    ← Functor.map_comp_assoc]
+  rw [← Functor.map_comp_assoc, ← CochainComplex.mappingCone.map_δ, Functor.map_comp_assoc,
+    ← reassoc_of% dsimp% F.mapDerivedCategoryFactors_hom_naturality]
```
Comment (JovanGerb) [inline Mathlib/Algebra/Homology/DerivedCategory/Ext/Map.lean]: Why did this change from using the `_assoc` lemma to using `reassoc_of%`?

File: Mathlib/Algebra/Homology/DerivedCategory/ShortExact.lean [hunk 15]
```diff
@@ -42,9 +42,10 @@ noncomputable def triangleOfSESδ :
     Q.map (CochainComplex.mappingCone.triangle S.f).mor₃ ≫
     (Q.commShiftIso (1 : ℤ)).hom.app S.X₁
 
+set_option backward.defeqAttrib.useBackward true in
 @[reassoc (attr := simp)]
 lemma descShortComplex_triangleOfSESδ :
-    Q.map (CochainComplex.mappingCone.descShortComplex S) ≫ triangleOfSESδ hS =
+    dsimp% Q.map (CochainComplex.mappingCone.descShortComplex S) ≫ triangleOfSESδ hS =
```
Comment (JovanGerb) [inline Mathlib/Algebra/Homology/DerivedCategory/ShortExact.lean:48]: What is this new `dsimp%` for?

File: Mathlib/Algebra/Lie/NonUnitalNonAssocAlgebra.lean [hunk 16]
```diff
@@ -81,7 +81,7 @@ variable {L₂ : Type w} [LieRing L₂] [LieAlgebra R L₂]
 set_option backward.isDefEq.respectTransparency false in
 /-- Regarding the `LieRing` of a `LieAlgebra` as a `NonUnitalNonAssocRing`, we can
 regard a `LieHom` as a `NonUnitalAlgHom`. -/
-@[simps]
+@[simps toFun]
```
Comment (JovanGerb) [inline Mathlib/Algebra/Lie/NonUnitalNonAssocAlgebra.lean:84]: Isn't `toFun` the only projection anyways? What does this do?

File: Mathlib/Algebra/Module/Presentation/Differentials.lean [hunk 17]
```diff
@@ -137,7 +142,7 @@ noncomputable def differentialsSolution :
     pres.differentialsRelations.Solution Ω[S⁄R] where
   var g := D _ _ (pres.val g)
   linearCombination_var_relation r := by
-    simp only [differentialsRelations_G, LinearMap.coe_comp, LinearEquiv.coe_coe,
+    simp only [ LinearMap.coe_comp, LinearEquiv.coe_coe,
```
Comment (JovanGerb) [inline Mathlib/Algebra/Module/Presentation/Differentials.lean]: Whitespace left unnecessarily

File: Mathlib/Algebra/Order/Hom/MonoidWithZero.lean [hunk 18]
```diff
@@ -265,7 +265,7 @@ end LinearOrderedCommMonoidWithZero
 end OrderMonoidWithZeroHom
 
 /-- Any ordered group is isomorphic to the units of itself adjoined with `0`. -/
-@[simps!]
+@[simps! -isSimp]
```
Comment (JovanGerb) [inline Mathlib/Algebra/Order/Hom/MonoidWithZero.lean:268]: Any reason to remove this from the simp set?

File: Mathlib/AlgebraicGeometry/Cover/Open.lean [hunk 19]
```diff
@@ -189,11 +190,9 @@ lemma OpenCover.pullbackCoverAffineRefinementObjIso_inv_pullbackHom
     (𝒰.pullbackCoverAffineRefinementObjIso f i).inv ≫
       𝒰.affineRefinement.openCover.pullbackHom f i =
       (𝒰.X i.1).affineCover.pullbackHom (𝒰.pullbackHom f i.1) i.2 := by
-  simp only [Precoverage.ZeroHypercover.pullback₁_toPreZeroHypercover,
-    PreZeroHypercover.pullback₁_X, Cover.pullbackHom, AffineOpenCover.openCover_X,
-    AffineOpenCover.openCover_f, pullbackCoverAffineRefinementObjIso, Iso.trans_inv, asIso_inv,
+  simp only [Cover.pullbackHom, pullbackCoverAffineRefinementObjIso, Iso.trans_inv, asIso_inv,
     Iso.symm_inv, Category.assoc, pullbackSymmetry_inv_comp_snd, IsIso.inv_comp_eq, limit.lift_π,
-    PullbackCone.mk_pt, PullbackCone.mk_π_app, Category.comp_id]
+      PullbackCone.mk_π_app, Category.comp_id]
```
Comment (JovanGerb) [inline Mathlib/AlgebraicGeometry/Cover/Open.lean]: Whitespace is off

File: Mathlib/AlgebraicTopology/SimplicialSet/AnodyneExtensions/RelativeCellComplex.lean [hunk 20]
```diff
@@ -320,7 +323,11 @@ of a simplicial set. -/
 noncomputable def m (j : ι) : f.sigmaHorn j ⟶ f.sigmaStdSimplex j :=
   Limits.Sigma.map (basicCell _ _)
 
-instance (j : ι) : Mono (f.m j) := by dsimp [m]; infer_instance
+set_option backward.defeqAttrib.useBackward true in
+instance (j : ι) : Mono (f.m j) :=
+  MorphismProperty.colimitsOfShape_le (W := .monomorphisms _) _
+    (MorphismProperty.colimitsOfShape_colimMap _
+      (fun ⟨c⟩ ↦ by dsimp; infer_instance))
```
Comment (JovanGerb) [inline Mathlib/AlgebraicTopology/SimplicialSet/AnodyneExtensions/RelativeCellComplex.lean]: Typically such proofs are best expressed using `inferInstanceAs <| ...`

File: Mathlib/AlgebraicTopology/ExtraDegeneracy.lean [hunk 21]
```diff
@@ -89,16 +91,18 @@ def map {D : Type*} [Category* D] {X : SimplicialObject.Augmented C} (ed : Extra
...
+set_option backward.isDefEq.respectTransparency false in
 /-- If `X` and `Y` are isomorphic augmented simplicial objects, then an extra
 degeneracy for `X` gives also an extra degeneracy for `Y` -/
 def ofIso {X Y : SimplicialObject.Augmented C} (e : X ≅ Y) (ed : ExtraDegeneracy X) :
     ExtraDegeneracy Y where
   s' := (point.mapIso e).inv ≫ ed.s' ≫ (drop.mapIso e).hom.app (op ⦋0⦌)
   s n := (drop.mapIso e).inv.app (op ⦋n⦌) ≫ ed.s n ≫ (drop.mapIso e).hom.app (op ⦋n + 1⦌)
   s'_comp_ε := by
-    simpa [w₀, ed.s'_comp_ε_assoc] using (point.mapIso e).inv_hom_id
+    simpa [dsimp% w₀] using dsimp% (point.mapIso e).inv_hom_id
```
Comment (JovanGerb) [inline Mathlib/AlgebraicTopology/ExtraDegeneracy.lean:103]: Surely it doesn't make sense to `dsimp%` the assumption of `simpa`? Because that already gets simplified.

File: Mathlib/AlgebraicTopology/ExtraDegeneracy.lean [hunk 22]
```diff
@@ -89,16 +91,18 @@ def map {D : Type*} [Category* D] {X : SimplicialObject.Augmented C} (ed : Extra
...
   s₀_comp_δ₁ := by
-    simp [← SimplicialObject.δ_naturality, s₀_comp_δ₁_assoc, w₀_assoc]
+    simp [← SimplicialObject.δ_naturality, s₀_comp_δ₁_assoc, dsimp% w₀_assoc]
```
Comment (JovanGerb) [inline Mathlib/AlgebraicTopology/ExtraDegeneracy.lean:105]: Shouldn't the lemma `w₀` itself get a `dsimp%` if that is apparently necessary to use it? Or can `dsimp%` be dropped?

File: Mathlib/Analysis/InnerProductSpace/StandardSubspace.lean [hunk 23]
```diff
@@ -81,7 +81,7 @@ noncomputable scoped instance : InnerProductSpace ℝ H where
 lemma inner_real_eq_re_inner (x y : H) : inner ℝ x y = ⟪x, y⟫.re := rfl
 
 /-- The imaginary unit as an invertible element. -/
-@[simps]
+@[simps val]
```
Comment (JovanGerb) [inline Mathlib/Analysis/InnerProductSpace/StandardSubspace.lean:84]: Why is the `inv` not a valid simp lemma anymore?

File: Mathlib/CategoryTheory/Sites/ConcreteSheafification.lean [hunk 24]
```diff
@@ -122,7 +122,7 @@ theorem equiv_symm_eq_apply {X : C} {P : Cᵒᵖ ⥤ D} {S : J.Cover X} [HasMult
     -- We can hint `ConcreteCategory.hom (Y := P.obj (op I.Y))` below to put it into `simp`-normal
     -- form, but that doesn't seem to fix the `erw`s below...
     (Multiequalizer.ι (S.index P) I) ((Meq.equiv P S).symm x) = x I := by
-  simp [← GrothendieckTopology.Cover.index_left, ← equiv_apply]
+  simp [- GrothendieckTopology.Cover.index_left, ← equiv_apply]
```
Comment (JovanGerb) [inline Mathlib/CategoryTheory/Sites/ConcreteSheafification.lean]: That's a funny change, is this intended? Do we need the `-`?

File: Mathlib/CategoryTheory/Sites/SheafHom.lean [hunk 25]
```diff
@@ -245,6 +253,7 @@ def sheafHomSectionsEquiv (F G : Sheaf J A) :
 
 @[simp]
 lemma sheafHomSectionsEquiv_symm_apply_coe_apply {F G : Sheaf J A} (φ : F ⟶ G) (X : Cᵒᵖ) :
-    ((sheafHomSectionsEquiv F G).symm φ).1 X = (J.overPullback A X.unop).map φ := rfl
+    ((sheafHomSectionsEquiv F G).symm φ).1 X = (J.overPullback A X.unop).map φ := by
+  with_unfolding_all rfl
```
Comment (JovanGerb) [inline Mathlib/CategoryTheory/Sites/SheafHom.lean]: Please revert, or use `:= (rfl)`

File: Mathlib/RepresentationTheory/Homological/GroupCohomology/Hilbert90.lean [hunk 26]
```diff
@@ -151,10 +151,10 @@ theorem exists_div_of_norm_eq_one (hg : ∀ x, x ∈ Subgroup.zpowers g) {x : L}
     with ⟨y, hy⟩
   use toMul <| toAdditive y
   have := Units.ext_iff.1 congr(toMul <| toAdditive $hy)
-  simp only [ofAlgebraAutOnUnits.eq_1, sub_hom, hom_id,
+  simp only [sub_hom, hom_id,
     Representation.IntertwiningMap.sub_toLinearMap, Representation.IntertwiningMap.toLinearMap_id,
     LinearMap.sub_apply, Representation.IntertwiningMap.coe_toLinearMap, applyAsHom_apply,
-    ofMulDistribMulAction_ρ_apply_apply, AlgEquiv.smul_units_def, LinearMap.id_coe, id_eq,
+      LinearMap.id_coe, id_eq,
```
Comment (JovanGerb) [inline Mathlib/RepresentationTheory/Homological/GroupCohomology/Hilbert90.lean]: Whitespace is off

File: Mathlib/Tactic/Linter/Header.lean [hunk 27]
```diff
@@ -23,6 +23,7 @@ Authors ...
 -/
 
 import statements*
+
 module doc-string*
 remaining file
```
Comment (JovanGerb) [inline Mathlib/Tactic/Linter/Header.lean:29]:
```suggestion
import statements*

module doc-string*

remaining file
```
If we're already adding spaces here to show how it should be.

File: Mathlib/Tactic/Linter/Style.lean [hunk 28]
```diff
@@ -598,7 +598,7 @@ def showLinter : Linter where run := withSetOptionIn fun stx => do
         let (goal :: goals) := tac.goalsBefore | return
         let (goal' :: goals') := tac.goalsAfter | return
         if goals != goals' then return -- `show` didn't act on first goal -> can't replace with `change`
-        if goal == goal' then return -- same goal, no need to check
+        -- Even if `goal == goal'`, the tactic may have assigned metavariables.
```
Comment (JovanGerb) [inline Mathlib/Tactic/Linter/Style.lean:601]: I think this is a good change, I'm just wondering why it is part of a bump PR instead of an actual feat PR.

File: Mathlib/Topology/Homotopy/TopCat/Basic.lean [hunk 29]
```diff
@@ -74,6 +72,8 @@ noncomputable abbrev trans := ContinuousMap.Homotopy.trans F G
 abbrev comp {f₀ f₁ : X ⟶ Y} {g₀ g₁ : Y ⟶ Z} (G : Homotopy g₀ g₁) (F : Homotopy f₀ f₁) :
     Homotopy (f₀ ≫ g₀) (f₁ ≫ g₁) := ContinuousMap.Homotopy.comp G F
 
+attribute [nolint simpNF] comp_apply
+
```
Comment (JovanGerb) [inline Mathlib/Topology/Homotopy/TopCat/Basic.lean:76]: I'm guessing you can use `simps! -isSimp` (or even remove `simps!`)

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/Iso.lean [hunk 30]
```diff
@@ -51,7 +51,6 @@ theorem pullbackConeOfLeftIso_π_app_none : (pullbackConeOfLeftIso f g).π.app n
 theorem pullbackConeOfLeftIso_π_app_left : (pullbackConeOfLeftIso f g).π.app left = g ≫ inv f :=
   rfl
 
-@[simp]
 theorem pullbackConeOfLeftIso_π_app_right : (pullbackConeOfLeftIso f g).π.app right = 𝟙 _ := rfl
```
Comment (JovanGerb) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/Iso.lean:55]: In here, `pullbackConeOfLeftIso_π_app_left` is also a redundant simp lemma, given `pullbackConeOfLeftIso_fst`. I'm surprised that this is not caught by `sipmNF`...

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/Iso.lean
Comment (JovanGerb) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/Iso.lean:103]: This `simp` is similarly redundant

**Review by JovanGerb — COMMENTED** [review]
I went through the changes.

A lot of simp lemmas were removed. It seems that this was because `simpNF` got stronger, presumably because `simp` now works better with the new `dsimp` behaviour. However, some of the `simp` removals look like less of a good idea.

File: Mathlib/Algebra/Homology/DerivedCategory/ShortExact.lean (hunk 15 above)
Comment (kim-em) [reply Mathlib/Algebra/Homology/DerivedCategory/ShortExact.lean:48]: Builds locally without `dsimp%`, but downstream Ext/Map then can't line up `descShortComplex_triangleOfSESδ` with `Functor.map_comp`.

File: Mathlib/AlgebraicTopology/ExtraDegeneracy.lean (hunk 21 above)
Comment (kim-em) [reply Mathlib/AlgebraicTopology/ExtraDegeneracy.lean:103]: Without it, `s'_comp_ε` errors with a type mismatch / unsolved goals.

File: Mathlib/CategoryTheory/Sites/ConcreteSheafification.lean (hunk 24 above)
Comment (kim-em) [reply Mathlib/CategoryTheory/Sites/ConcreteSheafification.lean]: Reverting to `←` triggers the new `unusedSimpArgs` linter, which itself recommends `-` when only the simp-set-removal effect is wanted. The `-` is correct here.

File: Mathlib/AlgebraicTopology/ExtraDegeneracy.lean (hunk 22 above)
Comment (kim-em) [reply Mathlib/AlgebraicTopology/ExtraDegeneracy.lean:105]: Tried it: `w₀` already has `dsimp%` in its statement (via [`SimplicialObject.w₀`](https://github.com/leanprover-community/mathlib4-nightly-testing/blob/bump/nightly-2026-05-03/Mathlib/AlgebraicTopology/SimplicialObject/Basic.lean#L444)). Dropping `dsimp%` at the call site here, with or without keeping `w₀_assoc` in the simp set, leaves `s'_comp_ε` with unsolved goals. So we have to keep the bumped form even though the `unusedSimpArgs` linter (incorrectly) claims `w₀_assoc` is unused — the `dsimp%`'d form really is the one doing the rewriting.

File: Mathlib/Tactic/Linter/Style.lean (hunk 28 above)
Comment (kim-em) [reply Mathlib/Tactic/Linter/Style.lean:601]: Sorry, just trying to get things to work, now PR'd as https://github.com/leanprover-community/mathlib4/pull/39064.

File: Mathlib/Topology/Homotopy/TopCat/Basic.lean (hunk 29 above)
Comment (kim-em) [reply Mathlib/Topology/Homotopy/TopCat/Basic.lean:76]: `-isSimp` removes `comp_apply` from the simp set, which breaks `h_comp`'s `by ext; simp`. The `@[simps!]` + `nolint simpNF comp_apply` combo is the workable choice here.

File: Mathlib/Data/SetLike/Basic.lean [hunk 31]
```diff
@@ -53,6 +53,7 @@ instance : PartialOrder (MySubobject X) := .ofSetLike (MySubobject X) X
 
 /-- Copy of a `MySubobject` with a new `carrier` equal to the old one. Useful to fix definitional
 equalities. See Note [range copy pattern]. -/
+
```
Comment (kim-em) [inline Mathlib/Data/SetLike/Basic.lean]:
```suggestion
```

File: Mathlib/Data/FunLike/Equiv.lean [hunk 32]
```diff
@@ -34,6 +34,7 @@ instance instEquivLike : EquivLike (MyIso A B) A B where
 
 /-- Copy of a `MyIso` with a new `toFun` equal to the old one. Useful to fix definitional
 equalities. -/
+
```
Comment (kim-em) [inline Mathlib/Data/FunLike/Equiv.lean]:
```suggestion
```

File: Mathlib/Data/FunLike/Embedding.lean [hunk 33]
```diff
@@ -37,6 +37,7 @@ instance : EmbeddingLike (MyEmbedding A B) A B where
 
 /-- Copy of a `MyEmbedding` with a new `toFun` equal to the old one. Useful to fix definitional
 equalities. -/
+
```
Comment (kim-em) [inline Mathlib/Data/FunLike/Embedding.lean]:
```suggestion
```

File: Mathlib/Data/FunLike/Basic.lean [hunk 34]
```diff
@@ -39,6 +39,7 @@ instance : FunLike (MyHom A B) A B where
 
 /-- Copy of a `MyHom` with a new `toFun` equal to the old one. Useful to fix definitional
 equalities. -/
+
```
Comment (kim-em) [inline Mathlib/Data/FunLike/Basic.lean]:
```suggestion
```

File: Mathlib/Algebra/Homology/DerivedCategory/Ext/Map.lean (hunk 14 above)
Comment (kim-em) [reply Mathlib/Algebra/Homology/DerivedCategory/Ext/Map.lean]: This one I am stumped by, and don't understand what has gone wrong. The `dsimp%` makes no difference, but I can't make the proof work.

File: Mathlib/CategoryTheory/Sites/ConcreteSheafification.lean (hunk 24 above)
Comment (kim-em) [reply Mathlib/CategoryTheory/Sites/ConcreteSheafification.lean]: Ooops, err, I meant "yes, we can just remove it" and I've done so now.

File: Mathlib/Analysis/InnerProductSpace/StandardSubspace.lean (hunk 23 above)
Comment (kim-em) [reply Mathlib/Analysis/InnerProductSpace/StandardSubspace.lean:84]: Reverting to plain `@[simps]` triggered the `simpNF` linter in CI: `Complex.val_inv_UnitI simp can prove this:`. Restored `@[simps val]` in [83cd932c948](https://github.com/leanprover-community/mathlib4-nightly-testing/commit/83cd932c948) — the auto-generated `inv` lemma is provable from the others, so simpNF won't accept it.

File: Mathlib/Algebra/Order/Hom/MonoidWithZero.lean (hunk 18 above)
Comment (kim-em) [reply Mathlib/Algebra/Order/Hom/MonoidWithZero.lean:268]: Reverting to plain `@[simps!]` triggered the `simpNF` linter in CI: `OrderMonoidIso.val_inv_unitsWithZero_symm_apply simp can prove this:`. Restored `@[simps! -isSimp]` in [83cd932c948](https://github.com/leanprover-community/mathlib4-nightly-testing/commit/83cd932c948) — the auto-generated lemmas are provable from the others, so the `-isSimp` filter is required.

File: Mathlib/Algebra/Lie/NonUnitalNonAssocAlgebra.lean (hunk 16 above)
Comment (kim-em) [reply Mathlib/Algebra/Lie/NonUnitalNonAssocAlgebra.lean:84]: Reverting to plain `@[simps]` triggered the `simpNF` linter in CI: `LieHom.toNonUnitalAlgHom_apply simp can prove this:`. So `toFun` *is* the only projection `simps` would generate that survives simpNF here — the others get auto-proven and rejected. Restored `@[simps toFun]` in [83cd932c948](https://github.com/leanprover-community/mathlib4-nightly-testing/commit/83cd932c948).

**Comment by kim-em** [comment]
bors merge
